US05973153
Kokai Pat. No. Hei 1(1989)-246263 describes a method for producing 5,7-dichloro-4-(2-fluorophenoxy)-quinoline whereby a mixture of 3,5-dichloroaniline and Meldrum's acid is heated to give 4-oxo-5,7-dichloro-1,4-dihydroquinoline, which is reacted with phosphorus oxychloride to give 4,5,7-trichloroquinoline, which is then reacted with 2-fluorophenol to give the final compound.

reactant | 3,5-dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | Meldrum's acid | CC1(OC(=O)CC(=O)O1)C | C6H8O4
product | 4-oxo-5,7-dichloro-1,4-dihydroquinoline | O=C1C=CNC2=CC(=CC(=C12)Cl)Cl | C9H5Cl2NO
